subckt xnor4_x1 A1 A2 A3 A4 X VDD VSS
X40A_nr_PA0 (pmid_X40A_nr_0 A1 VDD VDD) pmos w=2u l=100n
X40A_nr_PB0 (x_nor_0a A2 pmid_X40A_nr_0 VDD) pmos w=2u l=100n
X40A_nr_NA0 (x_nor_0a A1 VSS VSS) nmos w=1u l=100n
X40A_nr_NB0 (x_nor_0a A2 VSS VSS) nmos w=1u l=100n
X40A_iv_P0 (x_or_0a x_nor_0a VDD VDD) pmos w=2u l=100n
X40A_iv_N0 (x_or_0a x_nor_0a VSS VSS) nmos w=1u l=100n
X40A_nd_PA0 (x_nand_0a A1 VDD VDD) pmos w=2u l=100n
X40A_nd_PB0 (x_nand_0a A2 VDD VDD) pmos w=2u l=100n
X40A_nd_NB0 (x_nand_0a A2 nmid_X40A_nd_0 VSS) nmos w=1u l=100n
X40A_nd_NA0 (nmid_X40A_nd_0 A1 VSS VSS) nmos w=1u l=100n
X40A_na_PA0 (x_pre_0a x_or_0a VDD VDD) pmos w=2u l=100n
X40A_na_PB0 (x_pre_0a x_nand_0a VDD VDD) pmos w=2u l=100n
X40A_na_NB0 (x_pre_0a x_nand_0a nmid_X40A_na_0 VSS) nmos w=1u l=100n
X40A_na_NA0 (nmid_X40A_na_0 x_or_0a VSS VSS) nmos w=1u l=100n
X40A_xo_P0 (xx4_01_0 x_pre_0a VDD VDD) pmos w=2u l=100n
X40A_xo_N0 (xx4_01_0 x_pre_0a VSS VSS) nmos w=1u l=100n
X40B_nr_PA0 (pmid_X40B_nr_0 xx4_01_0 VDD VDD) pmos w=2u l=100n
X40B_nr_PB0 (x_nor_0b A3 pmid_X40B_nr_0 VDD) pmos w=2u l=100n
X40B_nr_NA0 (x_nor_0b xx4_01_0 VSS VSS) nmos w=1u l=100n
X40B_nr_NB0 (x_nor_0b A3 VSS VSS) nmos w=1u l=100n
X40B_iv_P0 (x_or_0b x_nor_0b VDD VDD) pmos w=2u l=100n
X40B_iv_N0 (x_or_0b x_nor_0b VSS VSS) nmos w=1u l=100n
X40B_nd_PA0 (x_nand_0b xx4_01_0 VDD VDD) pmos w=2u l=100n
X40B_nd_PB0 (x_nand_0b A3 VDD VDD) pmos w=2u l=100n
X40B_nd_NB0 (x_nand_0b A3 nmid_X40B_nd_0 VSS) nmos w=1u l=100n
X40B_nd_NA0 (nmid_X40B_nd_0 xx4_01_0 VSS VSS) nmos w=1u l=100n
X40B_na_PA0 (x_pre_0b x_or_0b VDD VDD) pmos w=2u l=100n
X40B_na_PB0 (x_pre_0b x_nand_0b VDD VDD) pmos w=2u l=100n
X40B_na_NB0 (x_pre_0b x_nand_0b nmid_X40B_na_0 VSS) nmos w=1u l=100n
X40B_na_NA0 (nmid_X40B_na_0 x_or_0b VSS VSS) nmos w=1u l=100n
X40B_xo_P0 (xx4_23_0 x_pre_0b VDD VDD) pmos w=2u l=100n
X40B_xo_N0 (xx4_23_0 x_pre_0b VSS VSS) nmos w=1u l=100n
X40C_nr_PA0 (pmid_X40C_nr_0 xx4_23_0 VDD VDD) pmos w=2u l=100n
X40C_nr_PB0 (x_nor_0c A4 pmid_X40C_nr_0 VDD) pmos w=2u l=100n
X40C_nr_NA0 (x_nor_0c xx4_23_0 VSS VSS) nmos w=1u l=100n
X40C_nr_NB0 (x_nor_0c A4 VSS VSS) nmos w=1u l=100n
X40C_iv_P0 (x_or_0c x_nor_0c VDD VDD) pmos w=2u l=100n
X40C_iv_N0 (x_or_0c x_nor_0c VSS VSS) nmos w=1u l=100n
X40C_nd_PA0 (x_nand_0c xx4_23_0 VDD VDD) pmos w=2u l=100n
X40C_nd_PB0 (x_nand_0c A4 VDD VDD) pmos w=2u l=100n
X40C_nd_NB0 (x_nand_0c A4 nmid_X40C_nd_0 VSS) nmos w=1u l=100n
X40C_nd_NA0 (nmid_X40C_nd_0 xx4_23_0 VSS VSS) nmos w=1u l=100n
X40C_na_PA0 (X x_or_0c VDD VDD) pmos w=2u l=100n
X40C_na_PB0 (X x_nand_0c VDD VDD) pmos w=2u l=100n
X40C_na_NB0 (X x_nand_0c nmid_X40C_na_0 VSS) nmos w=1u l=100n
X40C_na_NA0 (nmid_X40C_na_0 x_or_0c VSS VSS) nmos w=1u l=100n
ends xnor4_x1
